US06159971
(S)-N-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-4-morpholinobenzamide.
A solution of 4-morpholinobenzoic acid (380 mg, 1.83 mmol, described in: Degutis, J.; Rasteikiene, L.; Degutiene, A. Zh. Org. Khim. 1978, 14(10), 2060-2064) and 1,1'-carbonyldiimidazole (310 mg, 1.92 mmol) in anhydrous N,N-dimethylformamide (12 mL) was stirred at 75° C. for 30 min. The mixture was allowed to cool after which a solution of (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran (430 mg, 1.74 mmol) in N,N-dimethylformamide (8 mL) was added. The reaction mixture was stirred at room temperature for 3 days. Another portion of 1,1'-carbonyldiimidazole (57 mg, 0.35 mmol) was added, and the mixture was stirred for an additional 3.5 h. The solvent was removed in vacuo, and the residue was purified by column chromatography on silica (eluent: chloroform/ethanol; 93:7+0.5% NH3) affording 513 mg (68% yield) of the title compound as a white solid: mp 210-212° C.; [α]22D -145° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 436 (65, M+).

reactant | 4-morpholinobenzoic acid | O1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | 1,1'-carbonyldiimidazole | 1.92 mmol, 310 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran | 1.74 mmol, 430 mg | N[C@@H]1COC2=C(C1)C(=CC=C2)N2CCN(CC2)C | C14H21N3O
reactant | 1,1'-carbonyldiimidazole | 0.35 mmol, 57 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | (S)-N-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-4-morpholinobenzamide | 513 mg, 68% yield | CN1CCN(CC1)C1=CC=CC2=C1C[C@@H](CO2)NC(C2=CC=C(C=C2)N2CCOCC2)=O | C25H32N4O3
